US06599917B1
b) 4-Benzyl-5-bromo-2-[(3R,4R)-3-hydroxy-4-methoxypyrrolidine-1-yl]pyridine
190 mg of 60% oily sodium hydride and 0.3 ml of methyl iodide were added to a solution of 1.67 g of 4-benzyl-5-bromo-2-[(3R,4R)-3,4-dihydroxypyrrolidine-1-yl]pyridine in tetrahydrofuran, followed by stirring for 6 hours. Then, the reaction solution was extracted with ethyl acetate-water, and the organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated. The residue was subjected to silica gel column chromatography and eluted with 50% ethyl acetate, to give 560 mg of the target compound.

reactant | sodium hydride | 190 mg | [H-].[Na+]
reactant | methyl iodide | 0.3 ml | CI | CH3I
reactant | 4-benzyl-5-bromo-2-[(3R,4R)-3,4-dihydroxypyrrolidine-1-yl]pyridine | 1.67 g | C(C1=CC=CC=C1)C1=CC(=NC=C1Br)N1C[C@H]([C@@H](C1)O)O | C16H17BrN2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Benzyl-5-bromo-2-[(3R,4R)-3-hydroxy-4-methoxypyrrolidine-1-yl]pyridine | 560 mg | C(C1=CC=CC=C1)C1=CC(=NC=C1Br)N1C[C@H]([C@@H](C1)OC)O | C17H19BrN2O2
